* C:\Users\mlste\Documents\ITBA\6 Cuatrimestre\TC\TC_TP1\ej 2\simulacion filtro pasabajos rc 64k.asc
R1 cap in {mc{500, tolr}}
C1 cap 0 {mc{4.7n, tolc}}
V1 in 0 PULSE(-5 5 0 0.0001n 0.0001n {0.5*T} {T}) AC 1 Rser=50
.param f={640K} ; frecuencia de entrada
.param T {1/f}
.ac dec 50 500 10MEG
* Filtro pasabajos pasivos RC con frecuencia de corte 64KHz
.param tolr=0.05
.param tolc=0.1
;.step param run 1 100 1
.backanno
.end
